US06960609B2
A. N,N-Diethyl-4-[(4-iodo-3,5-dimethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-methyl]-benzamide
To a stirring solution of 4-[Chloro-(3-methoxy-phenyl)-methyl]-N,N-diethyl-benzamide (1.11 g, 3.32 mmol) in 20 Ml CH3CN was added 4-iodo-3,5-dimethyl pyrazole (1.64 g, 7.40 mmol) and tetra-n-butyl ammonium iodide (619 mg, 1.68 mmol). The mixture was heated to reflux for 24 h, cooled to room temperature and concentrated under reduce pressure. The crude oil was purified by flash chromatography on a 3×20 cm column, eluting with 30% ethyl acetate/hexanes, collecting 8 mL fractions. The product containing fractions were collected and concentrated under reduce pressure to give the desired product (1.65 g, 96%) as a clear yellow oil. 400 MHz 1H NMR (CDCl3) δ 7.31 (d, J=8.1 Hz, 2H), 7.19-7.24 (m, 1H), 7.13 (d, J=8.3 Hz, 2H), 6.79-6.82 (m, 1H), 6.68-6.70 (m, 2H), 6.54 (s, 1H), 3.71 (s, 3H), 3.50 (br s, 2H), 3.23 (br s, 2H), 2.21 (s, 3H), 2.18 (s, 3H), 1.21 (br s, 3H), 1.08 (br s, 3H); 75 MHz 13C NMR (CDCl3), δ 170.8, 159.7, 149.8, 141.2, 140.3, 140.1, 136.7, 129.6, 128.5, 126.6, 120.8, 114.4, 113.2, 66.5, 55.3, 43.3, 39.3, 14.4, 12.6; MS (M+1) 518.0.

reactant | 4-[Chloro-(3-methoxy-phenyl)-methyl]-N,N-diethyl-benzamide | 3.32 mmol, 1.11 g | ClC(C1=CC=C(C(=O)N(CC)CC)C=C1)C1=CC(=CC=C1)OC | C19H22ClNO2
reactant | 4-iodo-3,5-dimethyl pyrazole | 7.40 mmol, 1.64 g | IC=1C(=NNC1C)C | C5H7IN2
catalyst | tetra-n-butyl ammonium iodide | 1.68 mmol, 619 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH3CN | CC#N | C2H3N
product | N,N-Diethyl-4-[(4-iodo-3,5-dimethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-methyl]-benzamide | 1.65 g, 96% | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)I)C)=O)CC | C24H28IN3O2
